US07790898B2
(3,5-bis-trifluoromethylphenyl)-[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]methanone
The compound of Example 25 was prepared according to the general preparation protocol A from 3,5-bis(trifluoromethyl)benzoyl chloride and 3-(3-methoxy-phenyl)-piperidine-3-ol.

reactant | 3,5-bis(trifluoromethyl)benzoyl chloride | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
reactant | 3-(3-methoxy-phenyl)-piperidine-3-ol | COC=1C=C(C=CC1)C1(CNCCC1)O | C12H17NO2
product | (3,5-bis-trifluoromethylphenyl)-[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1CC(CCC1)(C1=CC(=CC=C1)OC)O)(F)F | C21H19F6NO3
